US05728708
5.0 g (36.5 mmol) of 4-acetyl-pyridine N-oxide and 6.64 ml (73 mmol) of phosphorus oxychloride are stirred in 50 ml of toluene for 2 h at 100°. The reaction mixture is stirred at 50° into 500 ml of 10N sodium hydroxide solution, extracted with ethyl acetate and treated with Tonsil (Fluka; bentonite--colloidal aqueous aluminium silicate). Concentration and crystallisation (diethyl ether/n-hexane) give 4-acetyl-2-chloro-pyridine;

reactant | 4-acetyl-pyridine N-oxide | 36.5 mmol, 5.0 g | C(C)(=O)C1=CC=[N+](C=C1)[O-] | C7H7NO2
reactant | phosphorus oxychloride | 73 mmol, 6.64 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 10N, 500 ml | [OH-].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-acetyl-2-chloro-pyridine | C(C)(=O)C1=CC(=NC=C1)Cl | C7H6ClNO
